US04970325
(a) Production of N-[(4-methylphenyl)sulfonyl]-aziridine
118 mg (3 mmol) of sodium hydride (55 percent in oil) was placed in 3 ml of tetrahydrofuran and cooled to 0° C. 1 g (2.7 mmol) of N,O-bis-(toluenesulfonyl)-ethanolamine in 2 ml of tetrahydrofuran was added in 7 minutes (generation of gas). The reaction mixture was warmed to room temperature. Then 2 ml of ether was added and it was stirred for 50 minutes at room temperature.

reactant | sodium hydride | 3 mmol, 118 mg | [H-].[Na+]
reactant | N,O-bis-(toluenesulfonyl)-ethanolamine | 2.7 mmol, 1 g | C=1(C(=CC=CC1)S(=O)(=O)NCCOS(=O)(=O)C=1C(=CC=CC1)C)C | C16H19NO5S2
reactant | ether | 2 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[(4-methylphenyl)sulfonyl]-aziridine | CC1=CC=C(C=C1)S(=O)(=O)N1CC1 | C9H11NO2S
